US05175157
3-[(N-(2-(6,7-Dimethoxy-isoquinol-4-yl)-ethyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3-dihydro-2H-3-benzazepine-monohydrate
Prepared from 7,8-dimethoxy-2-oxo-1,3-dihydro-2H-3-benzazepine and 3-chloromethyl-N-[2-(6,7-dimethoxy-isoquinol-4-yl)-ethyl]piperidine analogously to Example 2.

reactant | 7,8-dimethoxy-2-oxo-1,3-dihydro-2H-3-benzazepine | COC1=CC2=C(CC(NC=C2)=O)C=C1OC | C12H13NO3
reactant | 3-chloromethyl-N-[2-(6,7-dimethoxy-isoquinol-4-yl)-ethyl]piperidine | ClCC1CN(CCC1)CCC1=CN=CC2=CC(=C(C=C12)OC)OC | C19H25ClN2O2
product | 3-[(N-(2-(6,7-Dimethoxy-isoquinol-4-yl)-ethyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3-dihydro-2H-3-benzazepine-monohydrate | O.COC=1C=C2C(=CN=CC2=CC1OC)CCN1CC(CCC1)CN1C=CC2=C(CC1=O)C=C(C(=C2)OC)OC | InChI=1S/C31H37N3O5.H2O/c1-36-27-12-22-8-11-34(31(35)15-24(22)13-28(27)37-2)20-21-6-5-9-33(19-21)10-7-23-17-32-18-25-14-29(38-3)30(39-4)16-26(23)25;/h8,11-14,16-18,21H,5-7,9-10,15,19-20H2,1-4H3;1H2
